US04764623
2,2,3,3,4,4,4-Heptafluoro-N-[4-(1H-tetrazol-5-yl)phenyl]butanamide
A mixture of 2,2,3,3,4,4,4-heptafluoro-N-[4-(cyano)phenyl]butanamide (1.5 g,) sodium azide (1.55 g), ammonium chloride (1.28 g) and dimethylformamide (20 mL) was heated in a 130°-135° C. oil bath overnight. The reaction mixture was then poured onto 200 mL of water and the resulting solid was filtered off and recrystallized from ethanol. The product was dried at 100° C. overnight using an abderhalden (drying pistol) to give the title compound, m.p. 266°-268° C.

reactant | 2,2,3,3,4,4,4-heptafluoro-N-[4-(cyano)phenyl]butanamide | 1.5 g | FC(C(=O)NC1=CC=C(C=C1)C#N)(C(C(F)(F)F)(F)F)F | C11H5F7N2O
reactant | sodium azide | 1.55 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.28 g | [Cl-].[NH4+]
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 2,2,3,3,4,4,4-Heptafluoro-N-[4-(1H-tetrazol-5-yl)phenyl]butanamide | FC(C(=O)NC1=CC=C(C=C1)C1=NN=NN1)(C(C(F)(F)F)(F)F)F | C11H6F7N5O
